US06037367
82(e) (+/-)-1-(2-aminopyrimidin-5-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(4-methyloxazol-2-yl)but-1-yne
To a suspension of sodium methoxide (0.12 g, 2.2 mmol) in methanol (20 mL) was added (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(4-methyloxazol-2-yl)-1-(2-propionamidopyrimidin-5-yl)but-1-yne (0.29 g, 0.60 mmol). The mixture was heated at reflux for 1 h (forming a solution) and was cooled. Water was added and the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and the solvent was evaporated and gave the titled compound (64%) as an off-white solid, mp 103-105° C. Anal (C24H26N4O3 ·0.6 H2O) calcd: C, 67.15, H, 6.39, N, 13.05; C, 67.07, H, 6.22, N, 12.67.

reactant | sodium methoxide | 2.2 mmol, 0.12 g | C[O-].[Na+]
reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(4-methyloxazol-2-yl)-1-(2-propionamidopyrimidin-5-yl)but-1-yne | 0.60 mmol, 0.29 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C#CC=1C=NC(=NC1)NC(CC)=O)CC=1OC=C(N1)C | C27H30N4O4
reactant | Water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | (+/-)-1-(2-aminopyrimidin-5-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(4-methyloxazol-2-yl)but-1-yne | 64% | NC1=NC=C(C=N1)C#CC(CC=1OC=C(N1)C)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H26N4O3
